US07893056B2
2-Chloro-5-fluoro-6-[(1,3-thiazol-2-ylmethyl)amino]-4(1H)-pyrimidinone hydrazone dihydrochloride (0.3052 g, 0.882 mmol) and (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid (0.457 g, 1.059 mmol) were dissolved in DMF (8 mL). NMM (0.58 mL, 5.2753 mmol) was added, followed by HOAt (0.144 g, 1.059 mmol) and EDC (0.203 g, 1.059 mmol). After stirring overnight, the reaction mixture was purified by RP-HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1,3-thiazol-2-yl methyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide as a beige solid (0.3031 g, 62%). LCMS: (M+H)+=556.2.

reactant | 2-Chloro-5-fluoro-6-[(1,3-thiazol-2-ylmethyl)amino]-4(1H)-pyrimidinone hydrazone dihydrochloride | 0.882 mmol, 0.3052 g | Cl.Cl.ClC=1NC(=C(C(N1)=NN)F)NCC=1SC=CN1
reactant | (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid | 1.059 mmol, 0.457 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OC1OCCCC1)C=O | C15H25NO5
reactant | NMM | 5.2753 mmol, 0.58 mL | CN1CCOCC1 | C5H11NO
reactant | HOAt | 1.059 mmol, 0.144 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 1.059 mmol, 0.203 g
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1,3-thiazol-2-yl methyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.3031 g, 62% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)NCC=1SC=CN1 | C23H31ClFN7O4S
